US06770676B2
Lithium hydroxide hydrate, in an amount of 25 mg, dissolved in 5 mL of water was added to 90 mg of (1R,2S,5R,6R)-2-amino-6-fluoro-bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester dissolved in 2 mL of tetrahydrofuran, and the mixture was stirred for 2 hours at room temperature. The solvent was concentrated under reduced pressure. The residue was purified by ion exchange resin (AG 50W-X8 Resin (H type), eluent: water, a 50% aqueous solution of tetrahydrofuran, and a 10% aqueous solution of pyridine), thereby yielding 24 mg of (1R,2S,5R,6R)-2-amino-6-fluoro-bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylic acid.

reactant | Lithium hydroxide hydrate | O.[OH-].[Li+]
reactant | (1R,2S,5R,6R)-2-amino-6-fluoro-bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 90 mg | C(C)OC(=O)[C@]1([C@@H]2C=C[C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N)F | C17H18FNO4
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (1R,2S,5R,6R)-2-amino-6-fluoro-bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylic acid | 24 mg | N[C@@]1([C@@H]2[C@]([C@@H]2C=C1)(C(=O)O)F)C(=O)O | C8H8FNO4
